US09421205B2
(a) Ethyl 2-(3-chloropyrazin-2-yl)acetate (I99)
To a 1.0 M solution of LiHMDS in toluene (14.8 mL, 14.8 mmol) under nitrogen at 0° C. was added 2,3-dichloropyrazine (0.699 mL, 6.71 mmol) and ethyl acetate (0.725 mL, 7.38 mmol). The mixture was stirred overnight for 18 hours, allowing the ice bath to warm to room temperature. The mixture was poured into saturated ammonium chloride (100 mL), and extracted with diethyl ether (3×100 mL). The combined ether extracts were washed with brine, dried (sodium sulphate) and evaporated. The residue was chromatographed (40 g silica cartridge, 0-25% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I99) (0.414 g, 31% yield) as a pale yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.46 (d, J=2.5 Hz, 1H), 8.31 (d, J=2.5 Hz, 1H), 4.22 (q, J=7.1 Hz, 2H), 4.03 (s, 2H), 1.27 (t, J=7.1 Hz, 3H). LCMS Method C: rt 5.16 min.

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | toluene | 14.8 mmol, 14.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2,3-dichloropyrazine | 6.71 mmol, 0.699 mL | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | ethyl acetate | 7.38 mmol, 0.725 mL | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | 100 mL | [Cl-].[NH4+]
product | Ethyl 2-(3-chloropyrazin-2-yl)acetate | 0.414 g, 31% yield | ClC=1C(=NC=CN1)CC(=O)OCC | C8H9ClN2O2
